US05594021
α-(2-benzo[b]thienyl)-4-chlorobenzyl alcohol was prepared by the method of Example 40A with benzo[b]thiophene (7.5 mmoles, 1.0 g), t-BuLi (1.7 m, 9.7 mmoles, 5.7 ml), 4-chlorobenzaldehyde (9.7 mmoles, 1.4 g) and THF (20 ml). The crude material (2.45 g) was taken forward without further purification.

reactant | benzo[b]thiophene | 7.5 mmoles, 1.0 g | S1C2=C(C=C1)C=CC=C2 | C8H6S
reactant | t-BuLi | 9.7 mmoles, 5.7 ml | [Li]C(C)(C)C
reactant | 4-chlorobenzaldehyde | 9.7 mmoles, 1.4 g | ClC1=CC=C(C=O)C=C1 | C7H5ClO
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | α-(2-benzo[b]thienyl)-4-chlorobenzyl alcohol | S1C2=C(C=C1C(C1=CC=C(C=C1)Cl)O)C=CC=C2 | C15H11ClOS
